US04398029
Triethylamine (0.2 g), 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid hydrochloride (0.3 g), ethyl iodide (0.19 g), and DMF (5 ml) were mixed, heated with stirring at 90° C. for 3 hours, and the solvent was evaporated. The residue was dissolved in 2N sodium hydroxide solution. The alkaline solution was neutralized with aqueous acetic acid and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was recrystallized from a mixture of DMF and ethanol to give 1-ethyl-7-(4-ethyl-1-piperazinyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.06 g), mp 236°-239° C.

reactant | Triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid hydrochloride | 0.3 g | Cl.C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O
reactant | ethyl iodide | 0.19 g | C(C)I | C2H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-7-(4-ethyl-1-piperazinyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.06 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)CC)F)=O)C(=O)O | C18H21F2N3O3
